US04314061
3,6-bis(2-n-butylaminoethoxy)acridine trihydrochloride
The compound is prepared from 3,6-bis(2-chloroethoxy)acridine hydrochloride and n-butylamine as described in Example 15, giving 1.45 g. of the desired product as yellow crystals, m.p. 254°-256° C.

reactant | 3,6-bis(2-chloroethoxy)acridine hydrochloride | Cl.ClCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCl
reactant | n-butylamine | C(CCC)N | C4H11N
product | 3,6-bis(2-n-butylaminoethoxy)acridine trihydrochloride | Cl.Cl.Cl.C(CCC)NCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCNCCCC | InChI=1S/C25H35N3O2.3ClH/c1-3-5-11-26-13-15-29-22-9-7-20-17-21-8-10-23(19-25(21)28-24(20)18-22)30-16-14-27-12-6-4-2;;;/h7-10,17-19,26-27H,3-6,11-16H2,1-2H3;3*1H
